US08278319B2
Stage 1: (S)-4-tert-Butoxy-2-(4-methoxy-2,6-dimethylphenylsulfonamido)-4-oxobutyric acid
Sodium bicarbonate (1.5 eq) was added to a suspension of (S)-2-amino-4-tert-butoxy-4-oxobutanoic acid (5.1 mmol, 1.2 eq) in dioxane/water (1:1, 20 ml) and the mixture was stirred for 30 min at room temperature. A solution of 4-methoxy-2,6-dimethylbenzenesulfonic acid chloride (4.3 mmol, 1.0 eq) in dioxane (10 ml) was added and the reaction mixture stirred for 16 h at room temperature. On completion of the reaction the organic solvent was removed under vacuum and the aqueous phase acidified with 10% HCl (eq). Extraction was then performed with DCM and the organic phase was washed with saturated sodium chloride solution, dried (Na2SO4) and concentrated to small volume under vacuum. Yield: 45%.

reactant | Sodium bicarbonate | 1.5 eq | C([O-])(O)=O.[Na+]
reactant | (S)-2-amino-4-tert-butoxy-4-oxobutanoic acid | 5.1 mmol, 1.2 eq | N[C@H](C(=O)O)CC(=O)OC(C)(C)C | C8H15NO4
reactant | 4-methoxy-2,6-dimethylbenzenesulfonic acid chloride | 4.3 mmol, 1.0 eq | COC1=CC(=C(C(=C1)C)S(=O)(=O)Cl)C | C9H11ClO3S
solvent | dioxane water | 20 ml | O1CCOCC1.O
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | (S)-4-tert-Butoxy-2-(4-methoxy-2,6-dimethylphenylsulfonamido)-4-oxobutyric acid | Yield: 45% | C(C)(C)(C)OC(C[C@@H](C(=O)O)NS(=O)(=O)C1=C(C=C(C=C1C)OC)C)=O | C17H25NO7S
